US09376442B2
Methyl 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
Starting from methyl 4-chloro-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate (example A.11) and 2-(2-cyclopropylmethoxy-4-fluoro-5-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane e (example B.c2) the title compound is obtained as off white solid.

reactant | methyl 4-chloro-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | ClC=1C2=C(N=C(N1)C)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OC | C16H24ClN3O3Si
reactant | 2-(2-cyclopropylmethoxy-4-fluoro-5-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)COC1=C(C=C(C(=C1)F)OC)B1OC(C(O1)(C)C)(C)C | C17H24BFO4
product | Methyl 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-2,6-dimethyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=C(N1)C)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OC | C27H36FN3O5Si
